US05616586
A mixture of N-ethoxalyl-2-trimethylsilyloxymethyltetrahydroquinoline (15.55 g, 50.92 mmol) and Dess-Martin reagent (32.4 g, 76.37 mmol) in dichloromethane (160 mL) in the presence of trifluoroacetic acid (0.8 mL) was stirred for 1 h at room temperature. Aqueous sodium thiosulfate solution and saturated aqueous sodium bicarbonate were added successively and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated to give 11.23 g of N-ethoxalyl-2-formyltetrahydroquinoline (84%): 1H NMR (270 MHz, CDCl3) δ9.57 (s, 1H), 7.19 (m, 4H), 5.07 (t, 1H, J=8 Hz), 4.19 (q, 2H, J=7 Hz), 2.76 (m, 2H), 2.45 (m, 1H), 1.96 (m, 1H), 1.15 (t, 3H, J=7 Hz).

reactant | N-ethoxalyl-2-trimethylsilyloxymethyltetrahydroquinoline | 50.92 mmol, 15.55 g | C(=O)(C(=O)OCC)N1C(CCC2CC=CC=C12)CO[Si](C)(C)C | C17H27NO4Si
reactant | Dess-Martin reagent | 76.37 mmol, 32.4 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | trifluoroacetic acid | 0.8 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
product | N-ethoxalyl-2-formyltetrahydroquinoline | 11.23 g, 84% | C(=O)(C(=O)OCC)N1C(CCC2CC=CC=C12)C=O | C14H17NO4
